US07345301B2
A: 2-cyano-9,9′-spirobifluorene
A suspension of 158.1 g (0.4 mol) of 2-bromo-9,9′-spirobifluorene and 89.6 g (1 mol) of copper(I) cyanide in 1100 ml of NMP was heated to 160° C. for 16 h. After cooling to 30° C., the mixture was admixed with 1000 ml of saturated ammonia solution and stirred for a further 30 min. The precipitate was filtered off with suction, washed three times with 300 ml of saturated ammonia solution and three times with 300 ml of water, and suction-dried. After the solid had been dissolved in 1000 ml of dichloromethane, the solution was dried over sodium sulfate, filtered through silica gel and concentrated to dryness. The thus obtained crude product was recrystallized once from dioxane:ethanol (400 ml:750 ml). After the crystals had been dried under reduced pressure at 80° C., 81.0 g (237 mmol), corresponding to 59.3% of theory, were obtained.

reactant | 2-bromo-9,9′-spirobifluorene | 0.4 mol, 158.1 g | BrC1=CC=2C3(C4=CC=CC=C4C2C=C1)C1=CC=CC=C1C=1C=CC=CC13 | C25H15Br
reactant | copper(I) cyanide | 1 mol, 89.6 g | [Cu]C#N
reactant | ammonia | 1000 ml | N | H3N
solvent | NMP | 1100 ml | CN1CCCC1=O | C5H9NO
product | 2-cyano-9,9′-spirobifluorene | C(#N)C1=CC=2C3(C4=CC=CC=C4C2C=C1)C1=CC=CC=C1C=1C=CC=CC13 | C26H15N
